US09388177B2
1-bromo-2-ethoxy-4-fluorobenzene
To a stirred solution of 2-bromo-5-fluorophenol (5.0 g) in DMF (30 mL) was added potassium carbonate (10.8 g) and iodoethane (6.12 g). The mixture was stirred at room temperature for 16 h. The solvent was removed in vacuum. Water was added and the mixture was extracted with a mixture of ethyl acetate and hexane (3:1). The organic phase was washed with saturated sodium chloride solution, dried (sodium sulfate) and the solvent was removed in vacuum, to give 5.06 g of the title compound as a crude product, that was used for the next step without purification.

reactant | 2-bromo-5-fluorophenol | 5.0 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 6.12 g | ICC | C2H5I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-bromo-2-ethoxy-4-fluorobenzene | 5.06 g | BrC1=C(C=C(C=C1)F)OCC | C8H8BrFO
